US05932571
Synthesis of 4-(1-(N-methylacetamido)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt
Combine 1-(t-butoxycarbonyl)-4-1H-benzimidazol-2-yl)[1,4]diazepane (0.10 g, 0.32 mmol) and dimethylformamide (2 mL). Add sodium hydride (0.015 g, 0.62 mmol) and stir. After the gas evolution ceases, add N-methyl chloroacetamide (0.034 g, 0.32 mmol). After 12 hours, dilute the reaction mixture with water and extract with dichloromethane. Separate the layers and extract the aqueous layer with dichloromethane. Combine the organic layer and extract five times with water and then brine. Dry the organic layers over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 0.5% concentrated aqueous ammonia/1.5% methanol/dichloromethane to give 1-(t-butoxycarbonyl)-4-(1-(N-methylacetamido)-1H-benzimidazol-2-yl)[1,4]diazepane: Rf =0.34 (silica gel, 0.5% concentrated aqueous ammonia/5% methanol/dichloromethane). Combine 1-(t-butoxycarbonyl)-4-(1-(N-methylacetamido)-1H-benzimidazol-2-yl)[1,4]diazepane (0.6 mmol) and dichloromethane (10 mL). Add aqueous 48% hydriodic acid solution (1.2 mmol). Heat to 40° C. After 6 hours, cool to ambient temperature dilute with diethyl ether (40 mL), and collect the solid to give the title compound.

reactant | ammonia | N | H3N
reactant | 1-(t-butoxycarbonyl)-4-(1-(N-methylacetamido)-1H-benzimidazol-2-yl)[1,4]diazepane | 0.6 mmol | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1N(C(C)=O)C)C=CC=C2 | C20H29N5O3
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | hydriodic acid | 1.2 mmol | I | HI
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | 4-(1-(N-methylacetamido)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | I.CN(C(C)=O)N1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C15H21N5O.HI/c1-12(21)18(2)20-14-7-4-3-6-13(14)17-15(20)19-10-5-8-16-9-11-19;/h3-4,6-7,16H,5,8-11H2,1-2H3;1H
